US05977178
N-((1R)-1-(N-((1R)-1-((3-Cyclopropylthioureido)methyl)-2-phenylethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butylester (579 mg, 1.01 mmol) was dissolved in dichloromethane (2 ml). The solution was cooled to 0° C. Trifluoroacetic acid (2 ml) was added. The solution was stirred for 5 min. The solvents were removed in vacuo without warming. The residue was dissolved in dichloromethane (100 ml) and the solvent was removed in vacuo. This latter procedure was repeated two times. The crude product was purified by flash chromatography on silica (45 g) using dichloromethanelmethanol/25% aqueous ammonia 100:10:1 as eluent to give 201 mg of (2R)-N-((1R)-1-benzyl-2-(3-cyclopropylthioureido) ethyl)-N-methyl-2-methylamino-3-(2-naphthyl)propionamide.

reactant | N-((1R)-1-(N-((1R)-1-((3-Cyclopropylthioureido)methyl)-2-phenylethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butylester | 1.01 mmol, 579 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=CC=C1)CNC(=S)NC1CC1)=O)=O | C33H42N4O3S
reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2R)-N-((1R)-1-benzyl-2-(3-cyclopropylthioureido) ethyl)-N-methyl-2-methylamino-3-(2-naphthyl)propionamide | 201 mg | C(C1=CC=CC=C1)[C@H](CNC(=S)NC1CC1)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C28H34N4OS
